US08242157B2
A mixture of 2-chloro-1-methyl-1H-benzimidazole (915 mg, 5.5 mmol) and 4-fluoro-3-trifluoromethyl-benzylamine (4.24 g, 22.0 mmol) was stirred at 130° C. overnight. The resulting mixture was diluted with EtOAc, washed with H2O, dried over Na2SO4, filtered, and concentrated in vacuo. The resulting residue was purified by recrystallization from hexane to yield (4-fluoro-3-trifluoromethyl-benzyl)-(1-methyl-1H-benzimidazol-2-yl)-amine MS 324 (M+1)+

reactant | 2-chloro-1-methyl-1H-benzimidazole | 5.5 mmol, 915 mg | ClC1=NC2=C(N1C)C=CC=C2 | C8H7ClN2
reactant | 4-fluoro-3-trifluoromethyl-benzylamine | 22.0 mmol, 4.24 g | FC1=C(C=C(CN)C=C1)C(F)(F)F | C8H7F4N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (4-fluoro-3-trifluoromethyl-benzyl)-(1-methyl-1H-benzimidazol-2-yl)-amine | FC1=C(C=C(CNC2=NC3=C(N2C)C=CC=C3)C=C1)C(F)(F)F | C16H13F4N3
